2121-08-04 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -notified by pt's nurse [**First Name (Titles) 7384**] [**Last Name (Titles) **] are running in the upper 80's -
   patient mentating well and not c/o SOB
   -1655 - 500cc fluid bolus
   - pos fluid balance
   - on peripheral dopa
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2121-8-3**] 04:07 AM
   Cefipime - [**2121-8-4**] 12:00 AM
   Vancomycin - [**2121-8-4**] 12:42 AM
   Fluconazole - [**2121-8-4**] 02:15 AM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2121-8-3**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-4**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 113 (101 - 120) bpm
   BP: 95/48(59) {82/39(52) - 105/67(76)} mmHg
   RR: 27 (20 - 37) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,059 mL
                                                                    628 mL
   PO:
                                                                     80 mL
             TF:
   IVF:
                                                                  1,979 mL
                                                                    628 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    390 mL
   Urine:
                                                                  1,530 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,404 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 92%
   ABG: ///17/
   Physical Examination
   General Appearance: Thin, muscle wasting
   Eyes / Conjunctiva: PERRL, Mild scleral icterus
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, mucositis,
   candidiasis
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : throughout, Wheezes : scattered, loudest in
   RLL)
   Abdominal: Soft, Bowel sounds present, Distended, No(t) Tender:
   Extremities: Right: 3+, Left: 3+, No(t) Cyanosis
   Musculoskeletal: Muscle wasting
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   278 K/uL
   10.9 g/dL
   100 mg/dL
   1.1 mg/dL
   17 mEq/L
   4.3 mEq/L
   39 mg/dL
   99 mEq/L
   129 mEq/L
   34.4 %
   2.0 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
   WBC
   2.0
   Hct
   34.4
   Plt
   278
   Cr
   1.3
   1.1
   Glucose
   111
   100
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   61 yo M with metastatic prostate ca s/p taxotere treatment on [**7-25**] who
   presents with oral candidiasis, hypotension and respiratory distress.
   # Hypoxic and hypercarbic respiratory failure
 likely volume overload
   at this point w/ non cardiogenic edema.  Is currently 5L positive on
   I/O.  Start lasix gtt and small bolus. Options are limited as
   borderline blood pressures this is not without risk for hemodynamic
   compromise.
   # Sepsis: Meets SIRS criteria w/ leukopenia, RR, and HR. Most likely
   source is pulmonary, though no distinct infiltrate on portable film in
   ED.  UA negative and blood cultures sent in ED. Patient currently
   interested in temporizing measures such as fluid resuscitation (s/p 5L
   ED), antibiotics and peripheral pressors.
   - PA/Lat in am to further evaluate for infiltrate if tolerates,
   otherwise will plan for portable given instability
   - Pan culture - follow up ua/ucx and send bcx
   - Sputum culture if possible, though given oropharyngeal pain, patient
   will not likely be able to expectorate
   - Continue broad spectrum abx: vanc/cefepime/levoflox/fluconazole
   - Continue peripheral dopa for now given likelihood of septic shock,
   will need to re-evaluate with patient in am if unable to wean as we are
   limitied by inability to volume resuscitate given O2 requirement
   - Attempt to maintain MAP>65 via non-invasive measurement
   - Monitor UOP
   .
   # Acute renal failure: Baseline creatinine around 0.8, now 1.1.
   Patient appears dry on exam and also hyponatremic and hypotensive, so
   this is likley [**3-10**] poor perfusion/pre-renal azotemia.
   - Continue IVF resuscitation as tolerated, though need to hold for now
   as patietn rec'd 5L of NS in ED
   - Continue dopamine to maintain MAPs as above
   - Check urine lytes/FeNa
   # Hyponatremia: improving.  Likely hypovolemic hyponatremia given ARF
   and septic picture.
   - Check urine lytes, osms, FeNa as above
   - IVF resuscitation as above
   - Recheck Na now to ensure we are going in the right direction
   # Hyperkalemia: resolved.  Likely in the setting of acute renal
   failure. Receiving kayexelate in the ED.  No peaked Ts or other ECG
   abnormalities
   - Continue to follow, recheck post-kayexelate
   - Trend ECGs prn
   # Leukopenia: resolved.  Recent chemotherapy on [**7-25**].  Also likely
   component of marrow suppression in the setting of critical illness.
   Platelets are, however, elevated, though this is most likely as an
   acute phase reactant.
   - Continue to trend
   - No longer neutropenic
   - Discuss with onc in am
   - Tx w/ broad spectrum abx as above
   # Metastatic prostate adenocarcinoma: Apparently rapidly progressive. ?
   new nodules on CXR. During most recent admission, patient was being
   evaluated by hospice for end of life care.  Now s/p taxotere on [**7-25**].
   - Contact patient's Onc fellow in am to ensure she is aware that
   patient was re-admitted
   - Pain control, continue outpatient regimen as tolerated (oxycontin and
   dilaudid)
   - Further treatment as per outpatient oncologist
   - Palliative care re-consult in am
   # Pain control
 will increase IV dilaudid, may be CMO soon.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, bowel regimen
   .
   # Access: peripherals - 2 large bore in place
   .
   # Code: DNR/I, confirmed with patient ; will need to readdress goals of
   care as patient was on hospice care prior to this ICU admission
   .
   # Communication: Patient and mother, [**Name (NI) 7354**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: ICU for now

2121-08-04 12:15:00 Physician Attending Progress Note
Chief Complaint: resp distress hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   +++ positive fluid balance
   peripheral dopa
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2121-8-3**] 04:07 AM
   Vancomycin - [**2121-8-4**] 12:42 AM
   Fluconazole - [**2121-8-4**] 02:15 AM
   Cefipime - [**2121-8-4**] 11:41 AM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2121-8-4**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.4
C (97.6
   HR: 112 (101 - 120) bpm
   BP: 95/56(66) {89/39(52) - 105/59(68)} mmHg
   RR: 38 (23 - 38) insp/min
   SpO2: 89%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  7,059 mL
                                                                    889 mL
   PO:
                                                                     80 mL
                                                                     20 mL
   TF:
   IVF:
                                                                  1,979 mL
                                                                    869 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    680 mL
   Urine:
                                                                  1,530 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,404 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 89%
   ABG: ///19/
   Physical Examination
   Gen: emaciated male lying oin bed, somnolent, resp distress
   CV: tachy RR
   Chest : diffuse insp rales and exp wheeze
   Abd: soft hypoactive BS
   Ext: 2+ edema
   Labs / Radiology
   9.6 g/dL
   236 K/uL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   101 mEq/L
   131 mEq/L
   28.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
                             [**2121-8-4**]  04:18 AM
   WBC
   2.0
   14.1
   Hct
   34.4
   28.7
   Plt
   278
   236
   Cr
   1.3
   1.1
   0.9
   Glucose
   111
   100
   103
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANXIETY
 DYSPHAGIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
   Hypoxemic resp Failure: likely volume overload at this point w/ non
   cardiogenic edema, will give Lasix small bolus with drip since he is
   DNR and we have no other options but with his borderline blood
   pressures this is not without risk for hemodynamic compromise
   Hypotension: DDX sepsis/SIRS, will try to wean Dopa as he cannot take
   more IVF from a resp standpoint and will support with pressors for now.
   Check lactate.
   ARF: improved with hydration
   Goals of care have been hospice and at this point we will call family
   and primary Onc team, may be appropriate to move to CMO
   Appreciate Palliative Care input
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition : ICU until goals of care evolve
   Total time spent: 35

2121-08-05 05:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - talked to family (pt's mother) and informed her of clinical status
   - will need to eval for CMO status if pt not improving in AM
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2121-8-4**] 08:50 PM
   Levofloxacin - [**2121-8-5**] 02:15 AM
   Fluconazole - [**2121-8-5**] 02:24 AM
   Cefipime - [**2121-8-5**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 8 mg/hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2121-8-4**] 01:00 PM
   Hydromorphone (Dilaudid) - [**2121-8-4**] 05:17 PM
   Heparin Sodium (Prophylaxis) - [**2121-8-4**] 08:10 PM
   Morphine Sulfate - [**2121-8-5**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-5**] 05:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 102 (98 - 114) bpm
   BP: 98/59(66) {86/42(54) - 133/86(97)} mmHg
   RR: 23 (22 - 38) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,621 mL
                                                                    493 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                  1,601 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    371 mL
   Urine:
                                                                  1,160 mL
                                                                    371 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    461 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 93%
   ABG: 7.37/36/61//-3
   PaO2 / FiO2: 64
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   236 K/uL
   9.6 g/dL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   101 mEq/L
   131 mEq/L
   28.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
                             [**2121-8-4**]  04:18 AM
                             [**2121-8-4**]  03:16 PM
   WBC
   2.0
   14.1
   Hct
   34.4
   28.7
   Plt
   278
   236
   Cr
   1.3
   1.1
   0.9
   TCO2
   22
   Glucose
   111
   100
   103
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   61 yo M with metastatic prostate ca s/p taxotere treatment on [**7-25**] who
   presents with oral candidiasis, hypotension and respiratory distress.
   # Hypoxic and hypercarbic respiratory failure
 likely volume overload
   at this point w/ non cardiogenic edema.  Is currently 5L positive on
   I/O.  Start lasix gtt and small bolus. Options are limited as
   borderline blood pressures this is not without risk for hemodynamic
   compromise.
   # Sepsis: Meets SIRS criteria w/ leukopenia, RR, and HR. Most likely
   source is pulmonary, though no distinct infiltrate on portable film in
   ED.  UA negative and blood cultures sent in ED. Patient currently
   interested in temporizing measures such as fluid resuscitation (s/p 5L
   ED), antibiotics and peripheral pressors.
   - PA/Lat in am to further evaluate for infiltrate if tolerates,
   otherwise will plan for portable given instability
   - Pan culture - follow up ua/ucx and send bcx
   - Sputum culture if possible, though given oropharyngeal pain, patient
   will not likely be able to expectorate
   - Continue broad spectrum abx: vanc/cefepime/levoflox/fluconazole
   - Continue peripheral dopa for now given likelihood of septic shock,
   will need to re-evaluate with patient in am if unable to wean as we are
   limitied by inability to volume resuscitate given O2 requirement
   - Attempt to maintain MAP>65 via non-invasive measurement
   - Monitor UOP
   .
   # Acute renal failure: Baseline creatinine around 0.8, now 1.1.
   Patient appears dry on exam and also hyponatremic and hypotensive, so
   this is likley [**3-10**] poor perfusion/pre-renal azotemia.
   - Continue IVF resuscitation as tolerated, though need to hold for now
   as patietn rec'd 5L of NS in ED
   - Continue dopamine to maintain MAPs as above
   - Check urine lytes/FeNa
   # Hyponatremia: improving.  Likely hypovolemic hyponatremia given ARF
   and septic picture.
   - Check urine lytes, osms, FeNa as above
   - IVF resuscitation as above
   - Recheck Na now to ensure we are going in the right direction
   # Hyperkalemia: resolved.  Likely in the setting of acute renal
   failure. Receiving kayexelate in the ED.  No peaked Ts or other ECG
   abnormalities
   - Continue to follow, recheck post-kayexelate
   - Trend ECGs prn
   # Leukopenia: resolved.  Recent chemotherapy on [**7-25**].  Also likely
   component of marrow suppression in the setting of critical illness.
   Platelets are, however, elevated, though this is most likely as an
   acute phase reactant.
   - Continue to trend
   - No longer neutropenic
   - Discuss with onc in am
   - Tx w/ broad spectrum abx as above
   # Metastatic prostate adenocarcinoma: Apparently rapidly progressive. ?
   new nodules on CXR. During most recent admission, patient was being
   evaluated by hospice for end of life care.  Now s/p taxotere on [**7-25**].
   - Contact patient's Onc fellow in am to ensure she is aware that
   patient was re-admitted
   - Pain control, continue outpatient regimen as tolerated (oxycontin and
   dilaudid)
   - Further treatment as per outpatient oncologist
   - Palliative care re-consult in am
   # Pain control
 will increase IV dilaudid, may be CMO soon.
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: Subcutaneous heparin, bowel regimen
   .
   # Access: peripherals - 2 large bore in place
   .
   # Code: DNR/I, confirmed with patient ; will need to readdress goals of
   care as patient was on hospice care prior to this ICU admission
   .
   # Communication: Patient and mother, [**Name (NI) 7354**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2121-08-05 11:29:00 Physician Attending Progress Note
Chief Complaint: resp failure, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   tried Lasix
   still on peripheral dopamine
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2121-8-5**] 02:15 AM
   Fluconazole - [**2121-8-5**] 02:24 AM
   Cefipime - [**2121-8-5**] 04:00 AM
   Vancomycin - [**2121-8-5**] 08:30 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2121-8-4**] 01:00 PM
   Hydromorphone (Dilaudid) - [**2121-8-4**] 05:17 PM
   Heparin Sodium (Prophylaxis) - [**2121-8-5**] 05:58 AM
   Morphine Sulfate - [**2121-8-5**] 10:01 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-5**] 11:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 110 (98 - 114) bpm
   BP: 104/63(73) {86/42(54) - 133/86(97)} mmHg
   RR: 23 (22 - 35) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,622 mL
                                                                    941 mL
   PO:
                                                                     20 mL
             TF:
   IVF:
                                                                  1,602 mL
                                                                    941 mL
   Blood products:
   Total out:
                                                                  1,160 mL
                                                                    896 mL
   Urine:
                                                                  1,160 mL
                                                                    896 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    462 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: 7.37/36/61//-3
   PaO2 / FiO2: 64
   Physical Examination
   Gen: emaciated male lying oin bed, somnolent, resp distress
   CV: tachy RR
   Chest : diffuse insp rales and exp wheeze
   Abd: soft hypoactive BS
   Ext: 2+ edema
   Labs / Radiology
   9.6 g/dL
   236 K/uL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   101 mEq/L
   131 mEq/L
   28.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
                             [**2121-8-4**]  04:18 AM
                             [**2121-8-4**]  03:16 PM
   WBC
   2.0
   14.1
   Hct
   34.4
   28.7
   Plt
   278
   236
   Cr
   1.3
   1.1
   0.9
   TCO2
   22
   Glucose
   111
   100
   103
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANXIETY
 DYSPHAGIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
   Hypoxemic resp Failure: likely volume overload at this point w/ non
   cardiogenic edema, will give Lasix small bolus with drip since he is
   DNR and we have no other options but with his borderline blood
   pressures this is not without risk for hemodynamic compromise
   Hypotension: DDX sepsis/SIRS, will try to wean Dopa as he cannot take
   more IVF from a resp standpoint and will support with pressors for now.
   Check lactate.
   ARF: improved with hydration
   Goals of care have been hospice and at this point we will call family
   and primary Onc team, may be appropriate to move to CMO
   Appreciate Palliative Care input
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   Communication:  with pt and Palliative Care
   Code status: DNR / DNI
   Disposition :
   Total time spent:

2121-08-06 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-5**]
   - Pt completed legal paperwork he was holding on for.
   - At this time patient want to continue peripheral dopa and Morphine
   and Ativan as needed for pain/anxiety relief.
   - No consult recs/notes today
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2121-8-5**] 05:59 PM
   Vancomycin - [**2121-8-5**] 09:30 PM
   Fluconazole - [**2121-8-6**] 02:10 AM
   Cefipime - [**2121-8-6**] 04:30 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Dopamine - 10 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2121-8-5**] 10:17 PM
   Morphine Sulfate - [**2121-8-6**] 03:03 AM
   Albuterol 0.083% Neb Soln
   CefePIME
   DOPamine
   Docusate Sodium (Liquid)
   Fluconazole
   Furosemide
   HYDROmorphone
   Ipratropium Bromide Neb
   Levofloxacin
   Lorazepam
   Maalox/Diphenhydramine/Lidocaine
   Morphine Sulfate
   Nystatin Oral Suspension
   Oxycodone SR (OxyconTIN)
   Senna
   Vancomycin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-6**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 96 (94 - 115) bpm
   BP: 91/47(58) {79/46(51) - 146/63(73)} mmHg
   RR: 28 (23 - 37) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,871 mL
                                                                    431 mL
   PO:
             TF:
   IVF:
                                                                  1,871 mL
                                                                    431 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    189 mL
   Urine:
                                                                  1,475 mL
                                                                    189 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    396 mL
                                                                    242 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ////
   Physical Examination
   General: Alert, oriented, labored breathing.
   HEENT: Sclera anicteric, MMM, oropharynx thrush
   Neck: supple, JVP not elevated, no LAD
   Lungs: Ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen: soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: 3+ bilat pedal edema
   Labs / Radiology
   236 K/uL
   9.6 g/dL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   101 mEq/L
   131 mEq/L
   28.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
                             [**2121-8-4**]  04:18 AM
                             [**2121-8-4**]  03:16 PM
   WBC
   2.0
   14.1
   Hct
   34.4
   28.7
   Plt
   278
   236
   Cr
   1.3
   1.1
   0.9
   TCO2
   22
   Glucose
   111
   100
   103
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   61 yo M with metastatic prostate ca s/p taxotere treatment on [**7-25**] who
   presents with oral candidiasis, hypotension and respiratory distress.
   # Hypoxic and hypercarbic respiratory failure
 likely volume overload
   at this point w/ non cardiogenic edema.  Is currently 6L positive on
   I/O.  Options are limited as borderline blood pressures this is not
   without risk for hemodynamic compromise.  Pt [**Name (NI) **]
   # Sepsis: Meets SIRS criteria w/ leukopenia, RR, and HR. Most likely
   source is pulmonary, though no distinct infiltrate on portable film in
   ED.  UA negative and blood cultures sent in ED. Patient currently
   interested in temporizing measures such as fluid resuscitation (s/p 5L
   ED), antibiotics and peripheral pressors.
   - Follow up ua/ucx and send bcx
   - Continue broad spectrum abx: vanc/cefepime/levoflox/fluconazole
   - Continue peripheral dopa for now given likelihood of septic shock.
   Pt requiring increasing dopa to maintain goal map >65
   - Attempt to maintain MAP>65 via non-invasive measurement
   - Monitor UOP
   .
   # Acute renal failure: Baseline creatinine around 0.8.  Patient wet on
   exam so this is likley [**3-10**] poor perfusion/pre-renal azotemia.
   - Continue dopamine to maintain MAPs above 65
   - Not drawing labs currently for patient comfort so unable to determine
   trend.
   # Hyponatremia: improving.  Likely hypovolemic hyponatremia given ARF
   and septic picture.
   - Not drawing labs for patient comfort.  However unable to give volume
   given respiratory status
   # Hyperkalemia: resolved.  Likely in the setting of acute renal
   failure. Receiving kayexelate in the ED.  No peaked Ts or other ECG
   abnormalities
   - Not drawing labs so unable to evaluate.
   # Leukopenia:  Recent chemotherapy on [**7-25**].  Also likely component of
   marrow suppression in the setting of critical illness.  Platelets are,
   however, elevated, though this is most likely as an acute phase
   reactant.
   - Most resent CBC likely lab error, however given global picture will
   not redraw at present as this will not guide management.
   # Metastatic prostate adenocarcinoma: Apparently rapidly progressive.
   During most recent admission, patient was being evaluated by hospice
   for end of life care.  Now s/p taxotere on [**7-25**].
   - Pain control, continue outpatient regimen as tolerated (oxycontin and
   dilaudid)
   - Further treatment as per outpatient oncologist
   - Palliative care re-consult in am
   # Pain control
IV morphine, may be CMO today.
   .
   # FEN: No IVF. regular diet as tolerated.
   .
   # Prophylaxis: Subcutaneous heparin, bowel regimen
   .
   # Access: peripherals - 2 large bore in place
   .
   # Code: DNR/I, confirmed with patient ; will need to readdress goals of
   care as patient was on hospice care prior to this ICU admission
   .
   # Communication: Patient and mother, [**Name (NI) 7354**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition: Oral intake as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT: None
   Stress ulcer: None
   VAP:  n/a
   Comments: Bowel reg [**3-10**] Narcotics
   Communication: With patient and pts Mother:
   [**Name (NI) 156**] status: DNR / DNI
   Disposition: MICU

2121-08-06 09:30:00 Physician Attending Progress Note
Chief Complaint: shock, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Finished his legal paperwork
   Still on peripheral dopa
   Worsening mental status this AM
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2121-8-5**] 05:59 PM
   Vancomycin - [**2121-8-5**] 09:30 PM
   Fluconazole - [**2121-8-6**] 02:10 AM
   Cefipime - [**2121-8-6**] 04:30 AM
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Furosemide (Lasix) - 7.5 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2121-8-5**] 10:17 PM
   Morphine Sulfate - [**2121-8-6**] 03:03 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-6**] 09:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 109 (85 - 115) bpm
   BP: 96/56(64) {79/46(51) - 146/63(73)} mmHg
   RR: 25 (22 - 37) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,871 mL
                                                                    576 mL
   PO:
             TF:
   IVF:
                                                                  1,871 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                  1,475 mL
                                                                    369 mL
   Urine:
                                                                  1,475 mL
                                                                    369 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    396 mL
                                                                    207 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 92%
   ABG: ////
   Physical Examination
   Gen: coughing up blood, somnolent but intermittently arousbale
   CV: tachy RR
   Chest: coarse BS bilat
   Abd: soft hypoactive BS
   Ext: + edema
   Labs / Radiology
   9.6 g/dL
   236 K/uL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   101 mEq/L
   131 mEq/L
   28.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
                             [**2121-8-4**]  04:18 AM
                             [**2121-8-4**]  03:16 PM
   WBC
   2.0
   14.1
   Hct
   34.4
   28.7
   Plt
   278
   236
   Cr
   1.3
   1.1
   0.9
   TCO2
   22
   Glucose
   111
   100
   103
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 ANXIETY
 DYSPHAGIA
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 HYPOTENSION (NOT SHOCK)
   Hypoxemic resp Failure: volume overload at this point w/ non
   cardiogenic edema, able to wean transiently but now op bleeding. Tried
   lasix drip with some improvement but limited by his borderline blood
   pressures.
   Hypotension: DDX sepsis/SIRS, will try to wean Dopa as he cannot take
   more IVF from a resp standpoint and will support with pressors for now.
   Check lactate.
   ARF: improved with hydration
   Goals of care have been hospice and at this point we will call family
   and primary Onc team, may be appropriate to move to CMO
   Appreciate Palliative Care input
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT: boots
   Stress ulcer: PPI
   Communication:  updated mother and friend [**First Name4 (NamePattern1) 7450**]
   [**Last Name (NamePattern1) 156**] status: DNR / DNI
   Disposition : ICU
   Total time spent:
   Addendum
   Pt with progessive op bleeding, not handling secretions, progressive
   hypotension
   He is dying and we discussed this. He agrees to comfort care only. We
   will stop the Dopamine and use prn and drip Morphine as needed for
   compfrt and respiratory distress. His friend [**Name (NI) 7451**] is at the
   bedside.
   Time 20 min
   CMO

2121-08-07 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Goals of care CMO as of [**8-6**].
   Allergies:
   Hydrocodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2121-8-5**] 05:59 PM
   Fluconazole - [**2121-8-6**] 02:10 AM
   Cefipime - [**2121-8-6**] 04:30 AM
   Vancomycin - [**2121-8-6**] 08:00 AM
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Oxycodone SR (OxyconTIN) Phenylephrine 0.5% Nasal Spray
   Senna
   Lorazepam
   Maalox/Diphenhydramine/Lidocaine Morphine Sulfate
   Nystatin Oral Suspension
   Albuterol 0.083% Neb Soln
   Docusate Sodium (Liquid)
   HYDROmorphone (Dilaudid)
   Ipratropium Bromide Neb
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-8-7**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 104 (75 - 109) bpm
   BP: 62/29(37) {62/27(36) - 98/56(64)} mmHg
   RR: 13 (11 - 34) insp/min
   SpO2: 77%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,010 mL
                                                                     29 mL
   PO:
             TF:
   IVF:
                                                                  1,010 mL
                                                                     29 mL
   Blood products:
   Total out:
                                                                    596 mL
                                                                      0 mL
   Urine:
                                                                    596 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    414 mL
                                                                     29 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 77%
   ABG: ////
   Physical Examination
   General: Unresponsive to verbal (did not check response to painful
   stim)
   HEENT: NC/AT, some dried blood at nares no active bleeding currently
   Chest: Rhonchi/rales anteriorly
   Abd: Soft/NT/ND/NABS
   Ext: 3+ edema bilat LE.
   Labs / Radiology
   236 K/uL
   9.6 g/dL
   103 mg/dL
   0.9 mg/dL
   19 mEq/L
   4.4 mEq/L
   40 mg/dL
   101 mEq/L
   131 mEq/L
   28.7 %
   14.1 K/uL
        [image002.jpg]
                             [**2121-8-3**]  04:30 AM
                             [**2121-8-3**]  02:00 PM
                             [**2121-8-4**]  04:18 AM
                             [**2121-8-4**]  03:16 PM
   WBC
   2.0
   14.1
   Hct
   34.4
   28.7
   Plt
   278
   236
   Cr
   1.3
   1.1
   0.9
   TCO2
   22
   Glucose
   111
   100
   103
   Other labs: PT / PTT / INR:16.2/41.3/1.4, ALT / AST:73/429, Alk Phos /
   T Bili:436/2.4, Differential-Neuts:10.0 %, Band:6.0 %, Lymph:39.0 %,
   Mono:14.0 %, Eos:0.0 %, Albumin:2.3 g/dL, LDH:624 IU/L, Ca++:7.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   61M with known metastatic prostate ca with new O2 requirement and op
   [**Female First Name (un) 474**].  Patient transitioned to CMO on [**8-6**]
   Mr. [**Known lastname 7368**] was transitioned to CMO on [**8-6**] and is now on a morphine
   drip at 4mg/hr.  He appears comfortable.  Will continue to titrate
   morphine to comfort.
   ICU Care
   Nutrition: PO as tolerated
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-8-3**] 12:52 AM
   Prophylaxis:
   DVT: none
   Stress ulcer: none
   VAP:  none
   Comments:
   Communication: Pts Mother  Comments:
   [**Name2 (NI) 156**] status: DNR / DNI
   Disposition: CMO